### PR TITLE
[Merged by Bors] - feat(Algebra/Order): injectivity of `zpow` in its left argument

### PR DESCRIPTION
**Pull request by faenuccio**
Co-authored-by: María Inés de Frutos Fernández <midff@math.uni-bonn.de>

---

- [x] depends on: #26665
- [x] depends on: #26724
- [x] depends on: #26761
- [x] depends on: #26762
- [x] depends on: #26763

### CODE REVIEW

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 1]
```diff
@@ -396,14 +413,51 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
   __ := instLinearOrderedCommMonoidWithZero
   __ := commGroupWithZero
 
-end WithZero
+theorem one_lt_div' [LinearOrderedCommGroupWithZero α] (a : α) {b : α} (hb : b ≠ 0) :
+    1 < a / b ↔ b < a := by
+  rw [← mul_lt_mul_right₀ (zero_lt_iff.mpr hb), one_mul, div_eq_mul_inv, inv_mul_cancel_right₀ hb]
 
-section MultiplicativeNotation
+theorem strictMonoOn_zpow [LinearOrderedCommGroup α] {n : ℤ} (hn : 0 < n) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:420]:
```suggestion
theorem zpow_strictMonoOn [LinearOrderedCommGroup α] {n : ℤ} (hn : 0 < n) :
```
(it's an exception to the usual naming convention)

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 2]
```diff
@@ -168,6 +181,10 @@ theorem lt_of_mul_lt_mul_of_le₀ (h : a * b < c * d) (hc : 0 < c) (hh : c ≤ a
   simpa [inv_mul_cancel_left₀ ha, inv_mul_cancel_left₀ hc.ne']
     using mul_lt_mul_of_le_of_lt_of_nonneg_of_pos hh  h zero_le' (inv_pos.2 hc)
 
+theorem mul_lt_mul_right₀ {a b c : α}
+    (hc : 0 < c) : a * c < b * c ↔ a < b := by
+  simpa only [mul_comm a, mul_comm b] using mul_lt_mul_left hc
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:186]: Doesn't `mul_lt_mul_right` apply here?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 3]
```diff
@@ -396,14 +413,51 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
...
+  · exact (strictMonoOn_zpow h).injOn
+  · refine fun a ha b hb (hab : a ^ n = b ^ n) ↦ (strictMonoOn_zpow (neg_pos.mpr h)).injOn ha hb ?_
+    simp only [zpow_neg, zpow_neg, hab]
 
-end MultiplicativeNotation
+open Set in
+theorem zpow_left_inj {α : Type*} [LinearOrderedCommGroup α] {n : ℤ} {a b : WithZero α}
+    (ha : a ≠ 0) (hb : b ≠ 0) (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b :=
+  InjOn.eq_iff (zpow_left_injOn hn) (mem_Ioi.mpr (zero_lt_iff.mpr ha))
+    (mem_Ioi.mpr (zero_lt_iff.mpr hb))
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:442]: nit:
```suggestion
  (zpow_left_injOn hn).eq_iff ha.bot_lt hb.bot_lt
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 4]
```diff
@@ -396,14 +413,51 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
...
+
+theorem lt_succ_iff_le  (x : ℤₘ₀) (m : ℤ) :
+    x < ↑(↑(ofAdd (m + 1)) : ℤₘ₀) ↔ x ≤ (↑(ofAdd m) : ℤₘ₀) := by
+  by_cases hx : x = 0
+  · simpa only [hx, zero_le', iff_true, zero_lt_iff] using coe_ne_zero
+  · obtain ⟨-, rfl⟩ := ne_zero_iff_exists.mp hx
+    simpa only [coe_le_coe, coe_lt_coe, ← toAdd_le, ← toAdd_lt, toAdd_ofAdd] using
+      ⟨le_of_lt_add_one, lt_add_one_of_le⟩
+
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:456]:
```suggestion
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 5]
```diff
@@ -396,14 +413,51 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
...
+    (ha : a ≠ 0) (hb : b ≠ 0) (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b :=
+  InjOn.eq_iff (zpow_left_injOn hn) (mem_Ioi.mpr (zero_lt_iff.mpr ha))
+    (mem_Ioi.mpr (zero_lt_iff.mpr hb))
+
+section Int
+
+open Int Multiplicative
+
+theorem lt_succ_iff_le  (x : ℤₘ₀) (m : ℤ) :
+    x < ↑(↑(ofAdd (m + 1)) : ℤₘ₀) ↔ x ≤ (↑(ofAdd m) : ℤₘ₀) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:449]: This statement looks really convoluted. What about something like
```suggestion
theorem lt_succ_iff_le {x : ℤₘ₀} {m : Multiplicative ℤ} : x < m * ofAdd (1 : ℤ) ↔ x ≤ m := by
```

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 6]
```diff
@@ -28,9 +28,6 @@ lemma zpow_right_strictMono (ha : 1 < a) : StrictMono fun n : ℤ ↦ a ^ n := b
 
 @[deprecated (since := "2024-09-19")] alias zsmul_strictMono_left := zsmul_left_strictMono
 
-@[to_additive zsmul_pos] lemma one_lt_zpow (ha : 1 < a) (hn : 0 < n) : 1 < a ^ n := by
-  simpa using zpow_right_strictMono ha hn
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:32]: Where is this one gone?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 7]
```diff
@@ -266,6 +266,12 @@ def unitsWithZeroEquiv : (WithZero α)ˣ ≃* α where
   right_inv _ := rfl
   map_mul' _ _ := coe_inj.mp <| by simp only [Units.val_mul, coe_unzero, coe_mul]
 
+/- Importing `Mathlib.Algebra.Equiv.TransferInstance` would allow avoiding the `.surjective` call
+  but it would create too large an input, detected by the `asserts_not_exist` at the beginning of
+  this file. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:271]: I think the answer here is that `Mathlib.Algebra.Equiv.TransferInstance` is a silly file that should be split

Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:271]: I agree, but splitting that one is beyond the scope of this PR, I guess. I think the small comment is still relevant, but if you object against, I can remove it.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:186]: Indeed!

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 5 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:448]: Nice!

File: Mathlib/Algebra/Order/Group/Basic.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Basic.lean:32]: To this file
Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean
where it is stated in a slightly greater generality.

File: Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean [hunk 8]
```diff
@@ -316,4 +316,11 @@ theorem one_le_zpow {x : G} (H : 1 ≤ x) {n : ℤ} (hn : 0 ≤ n) : 1 ≤ x ^ n
   rw [zpow_natCast]
   apply one_le_pow_of_one_le' H
 
+@[to_additive zsmul_pos]
+theorem one_lt_zpow  {g : G} (hg : 1 < g) {k : ℤ}
+    (hk : 0 < k) : 1 < g ^ k := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean:321]:
```suggestion
theorem one_lt_zpow {x : G} (hg : 1 < g) {n : ℤ} (hn : 0 < n) : 1 < x ^ n := by
```
to match the rest of the file

Comment (faenuccio) [reply Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean]: 😏

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:271]: I do think it doesn't add much value

File: Mathlib/Algebra/Order/Group/Basic.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/Basic.lean:32]: Ah, right! Sorry for the noise

File: Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean [hunk 9]
```diff
@@ -316,4 +316,10 @@ theorem one_le_zpow {x : G} (H : 1 ≤ x) {n : ℤ} (hn : 0 ≤ n) : 1 ≤ x ^ n
   rw [zpow_natCast]
   apply one_le_pow_of_one_le' H
 
+@[to_additive zsmul_pos]
+theorem one_lt_zpow {x : G} (hg : 1 < g) {n : ℤ} (hn : 0 < n) : 1 < x ^ n := by
+  lift k to ℕ using Int.le_of_lt hk
+  rw [zpow_natCast]
+  exact one_lt_pow' hg (Int.natCast_pos.mp hk).ne'
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean:323]: Sorry for breaking your code
```suggestion
theorem one_lt_zpow {x : G} (hx : 1 < x) {n : ℤ} (hn : 0 < n) : 1 < x ^ n := by
  lift n to ℕ using Int.le_of_lt hn
  rw [zpow_natCast]
  exact one_lt_pow' hx (Int.natCast_pos.mp hn).ne'
```

Comment (faenuccio) [reply Mathlib/Algebra/Order/Monoid/Unbundled/Pow.lean]: > Sorry for breaking your code

Well, you also fixed it again 😃

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 10]
```diff
@@ -396,14 +413,47 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
...
+
+theorem lt_succ_iff_le {x : ℤₘ₀} {m : Multiplicative ℤ} : x < m * ofAdd (1 : ℤ) ↔ x ≤ m := by
+  by_cases hx : x = 0
+  · simpa only [hx, zero_le', iff_true, zero_lt_iff] using coe_ne_zero
+  · obtain ⟨x, rfl⟩ := ne_zero_iff_exists.mp hx
+    simpa [← WithZero.coe_mul] using ⟨le_of_lt_add_one, lt_add_one_of_le⟩
+
+theorem Int.ofAdd_neg_one_lt_one : (↑(Multiplicative.ofAdd (-1 : ℤ)) : ℤₘ₀) < (1 : ℤₘ₀) := by
+  rw [← coe_one, coe_lt_coe, ← ofAdd_zero, ofAdd_lt]
+  omega
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:455]: This lemma feelss overly specific. Can you either:
* drop it
* generalise it, maybe something like
```suggestion
theorem Int.ofAdd_neg_natCast_lt_one {n : ℕ} : (Multiplicative.ofAdd (-n : ℤ) : ℤₘ₀) < 1 := by
  rw [← coe_one, coe_lt_coe, ← ofAdd_zero, ofAdd_lt]
  omega
```
(didn't fix the proof)

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: Sorry, but why are you still adding this lemma then? Isn't it exactly a specialisation of `mul_lt_mul_right`? 😅

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 10 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:455]: Good point!

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: Oh sure, I just implemented your suggestion without thinking what it meant... 🤭

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 11]
```diff
@@ -396,14 +409,48 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
   __ := instLinearOrderedCommMonoidWithZero
   __ := commGroupWithZero
 
-end WithZero
+theorem one_lt_div' [LinearOrderedCommGroupWithZero α] (a : α) {b : α} (hb : b ≠ 0) :
+    1 < a / b ↔ b < a := by
+  rw [← mul_lt_mul_right (zero_lt_iff.mpr hb), one_mul, div_eq_mul_inv, inv_mul_cancel_right₀ hb]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:414]: Can you generalise that to `GroupWithZero` + `LinearOrder` + compatibility typeclasses by assuming 
```suggestion
theorem one_lt_div' [LinearOrderedCommGroupWithZero α] (a : α) {b : α} (hb : 0 < b) :
    1 < a / b ↔ b < a := by
  rw [← mul_lt_mul_right (zero_lt_iff.mpr hb), one_mul, div_eq_mul_inv, inv_mul_cancel_right₀ hb]
```
This way it will also apply to eg linearly ordered fields. Same for the three lemmas below

**Comment by YaelDillies** [comment]
I find the imports increase somewhat worrying. Can you figure out what 29 files are being transitively imported that weren't before?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 11 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:414]: I managed to generalise the first but the other two landed me in a typeclass nightmare... I'd stick to this one for the moment (but will have a look at the import after lunch).

**Comment by faenuccio** [comment]
@YaelDillies Do you have more thoughts on this?

**Comment by YaelDillies** [comment]
I think the unnecessary imports are mostly coming from `Data.Set.Prod`. @Vierkantor, do you have ideas here?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 12]
```diff
@@ -395,15 +404,21 @@ instance instLinearOrderedCommGroupWithZero [LinearOrderedCommGroup α] :
...
-section MultiplicativeNotation
+theorem lt_succ_iff_le {x : ℤₘ₀} {m : Multiplicative ℤ} : x < m * ofAdd (1 : ℤ) ↔ x ≤ m := by
+  obtain rfl | hx := eq_or_ne x 0
+  · simp [← coe_mul, zero_lt_coe, WithZero.zero_le]
+  · obtain ⟨x, rfl⟩ := ne_zero_iff_exists.mp hx
+    simpa [← WithZero.coe_mul] using ⟨le_of_lt_add_one, lt_add_one_of_le⟩
 
-/-- Notation for `WithZero (Multiplicative ℕ)` -/
-scoped[Multiplicative] notation "ℕₘ₀" => WithZero (Multiplicative ℕ)
+theorem Int.ofAdd_neg_natCast_lt_one {n : ℕ} (hn : n ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:417]: This is in the `WithZero.Int` namespace. Is this expected?

**Comment by YaelDillies** [comment]
I simply moved your lemmas where they belong. I don't think we should revert that.

Given how much they increase imports, we'll need to think about how to split things up upstream of `Data.Set.Monotone`.

**Comment by faenuccio** [comment]
> I simply moved your lemmas where they belong. I don't think we should revert that.
> 
> Given how much they increase imports, we'll need to think about how to split things up upstream of `Data.Set.Monotone`.

Well, but these are different problems, and certainly beyond the scope of this PR. Also, although I appreciate that you moved lemmas where they belonged, now CI is broken, and I think it would have been better to simply suggest where to move them (or to fix the build after your commits).

What do you think if I create a new file with these new lemmas and add them to this file, avoiding the explosion in imports for `Canonicals`?

**Comment by faenuccio** [comment]
> > I think the unnecessary imports are mostly coming from `Data.Set.Prod`. @Vierkantor, do you have ideas here?
> 
> Indeed, I think the import of `Data.Set.Prod` into `Data.Set.Function` can probably be avoided (maybe by reversing the direction?). And then we still have `Data.Set.Image` (via `Data.Set.Restrict`) which also imports a lot. But that's for a different PR.

Yes, so I am currently trying to first revert Yael's changes so that the CI passes again, and then we'll see what to do.

**Comment by YaelDillies** [comment]
I've opened #23424. Once it's in, we can't revert your reversion 😉

**Comment by YaelDillies** [comment]
> I think it would have been better to simply suggest where to move them (or to fix the build after your commits).

I did already suggest where to move them but you replied with 

> I managed to generalise the first but the other two landed me in a typeclass nightmare...

so I did it myself, and I didn't have time to fix the build after my commits before you started reverting them. Anyway, the build should be fixed soon.

**Comment by faenuccio** [comment]
> > I think it would have been better to simply suggest where to move them (or to fix the build after your commits).
> 
> I did already suggest where to move them but you replied with
> 
> > I managed to generalise the first but the other two landed me in a typeclass nightmare...
> 
> so I did it myself, and I didn't have time to fix the build after my commits before you started reverting them. Anyway, the build should be fixed soon.

Oh thanks! I did not mean to put any pressure, had you written me a line telling me that you were planning to do this in the coming days I would have refrained from doing anything. I am sorry, and will be happy to revert my reversions in due time 😄

**Comment by YaelDillies** [comment]
No problem! Sorry for the confusion

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Review by YaelDillies — APPROVED** [review]
Now this Just Works thanks to the module system 🎉 

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
